US04611080
25 g of 2,4,5-trifluorobenzoyl chloride in 10 ml of methylene chloride and 37.5 g of 1,1-dichloroethylene are successively added dropwise to a suspension of 18.5 g of anhydrous aluminum chloride in 75 ml of dry methylene chloride, while cooling with ice and stirring, during which the temperature does not exceed 15° C. The mixture is stirred at about 15° C. for 2 hours, is allowed to come to room temperature overnight and is poured onto a mixture of 150 g of ice and 15 ml of concentrated hydrochloric acid, the organic phase is separated off and the aqueous phase is subsequently extracted with methylene chloride. The methylene chloride solution is washed with water and dried with sodium sulphate and the diluent is distilled off in vacuo. The residue (44 g) is heated at 130°-140° C. with 0.1 g of triphenylphosphine until the initially vigorous evolution of gas has ended (about 45 minutes). Distillation in vacuo gives 23.8 g (72.8%) of 2,2-dichlorovinyl 2,4,5-trifluorophenyl ketone of boiling point 132° -134° C./14 mbar.

reactant | 2,4,5-trifluorobenzoyl chloride | 25 g | FC1=C(C(=O)Cl)C=C(C(=C1)F)F | C7H2ClF3O
reactant | 1,1-dichloroethylene | 37.5 g | ClC(=C)Cl | C2H2Cl2
reactant | aluminum chloride | 18.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 15 ml | Cl | ClH
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | 2,2-dichlorovinyl 2,4,5-trifluorophenyl ketone | 23.8 g, 72.8% | FC1=C(C=C(C(=C1)F)F)C(=O)C=C(Cl)Cl | C9H3Cl2F3O
